US05559111
2(R)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxy-4-tert-butyl-phenyl)-octanoic acid (N-butyl)amide hydrochloride
30 mg of N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxy-4-tert-butyl-phenyl)-octanoic acid (N-butyl)amide are treated with 0.6 ml of 4N hydrochloric acid in dioxane analogously to Example 1 and the product is purified by means of FC (15 g of silica gel, dichloromethane/methanol=9:1). The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.17; Rt (I)=28.54 minutes; FAB-MS (M+H)+ =435.

reactant | N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxy-4-tert-butyl-phenyl)-octanoic acid (N-butyl)amide | 30 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)C(C)(C)C)O)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C31H54N2O5
reactant | hydrochloric acid | 4N, 0.6 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2(R)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-hydroxy-4-tert-butyl-phenyl)-octanoic acid (N-butyl)amide hydrochloride | Cl.C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)C(C)(C)C)O)C(C)C)N)O)C)=O | InChI=1S/C26H46N2O3.ClH/c1-8-9-12-28-25(31)18(4)13-24(30)22(27)16-20(17(2)3)14-19-10-11-21(23(29)15-19)26(5,6)7;/h10-11,15,17-18,20,22,24,29-30H,8-9,12-14,16,27H2,1-7H3,(H,28,31);1H/t18-,20+,22+,24+;/m1./s1
